US08377924B2
5-(3-Cyclopropyl-5-nitrophenyl)-1-methyl-1H-tetrazole (1.4 g, 5.7 mmol) was treated with tin (II) chloride (4.3 g, 22.8 mmol) and hydrochloric acid (0.5 mL) in ethanol (15 mL) at reflux for 1 hour. The solvent was removed under vacuum. The residue was partitioned between ethyl acetate and water. The organic layer was washed with 1M aqueous potassium carbonate solution, dried over anhydrous sodium sulfate and concentrated under vacuum. The resulting residue was purified by column chromatography, on silica gel, eluting with hexanes:ethyl acetate (70:30), to yield 3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)benzenamine (520 mg, 43% yield) as an off-white solid.

reactant | 5-(3-Cyclopropyl-5-nitrophenyl)-1-methyl-1H-tetrazole | 5.7 mmol, 1.4 g | C1(CC1)C=1C=C(C=C(C1)[N+](=O)[O-])C1=NN=NN1C | C11H11N5O2
reactant | tin (II) chloride | 22.8 mmol, 4.3 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)benzenamine | 520 mg, 43% yield | C1(CC1)C=1C=C(C=C(C1)C1=NN=NN1C)N | C11H13N5
